US04061764
O-(Methylcarbamoyl) Alpha-Oximino-2-Thienylacetonitrile
To a solution of 3.04 g. (0.02 mole) of alphaoximino-2-thienylacetonitrile and 2 drops of triethylamine in 50 ml. of ether was added 1.14 g. (0.02 mole) of methylisocyanate in 10 ml. of ether. After 1 hour the solid was filtered and crystallized from benzene to give 3.8 g. of product melting at 154°-155° C.

reactant | alphaoximino-2-thienylacetonitrile | 0.02 mole | N(O)=C(C#N)C=1SC=CC1 | C6H4N2OS
reactant | methylisocyanate | 0.02 mole | CN=C=O | C2H3NO
catalyst | triethylamine | 2 drops | C(C)N(CC)CC | C6H15N
solvent | ether | CCOCC | C4H10O
product | O-(Methylcarbamoyl) Alpha-Oximino-2-Thienylacetonitrile | CNC(=O)ON=C(C#N)C=1SC=CC1 | C8H7N3O2S
